US07435815B2
N-Ethyl-2-[(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid with ethyl-pyridin-2-ylmethyl-amine

reactant | [(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid | COC1=CC=C(C=N1)N(S(=O)(=O)C1=NC=CC=C1C)CC(=O)O | C14H15N3O5S
reactant | ethyl-pyridin-2-ylmethyl-amine | C(C)NCC1=NC=CC=C1 | C8H12N2
product | N-Ethyl-2-[(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-N-pyridin-2-ylmethyl-acetamide | C(C)N(C(CN(S(=O)(=O)C1=NC=CC=C1C)C=1C=NC(=CC1)OC)=O)CC1=NC=CC=C1 | C22H25N5O4S
